US06683187B2
8. Preparation of 2,6-bis-[(2,6-dichlorophenylimino) methyl]pyridine (6)
2,6-Pyridinedicarboxaldehyde (1 g, 7.4 mmol) and 2,6-dichloroaniline (2.6 g, 16.0 mmol) were dissolved in 100 ml of toluene. To this solution 4 Å molecular sieves were added. After standing for 2 days, with addition of more 4 Å molecular sieves the mixture was filtered. The solvent was removed in vacuo. The residue was crystallised from ethanol. Yield 1.4 g (45%) of 6. 1H-NMR (CDCl3) δ 8.53 (s, 2H, HC═N), 8.45 (d, 2H, Py-Hm), 8.02 (t, 1H, Py-Hp), 7.36 (d, 4H, ArH), 7.03 (t, 2H, ArH).

reactant | 2,6-Pyridinedicarboxaldehyde | 7.4 mmol, 1 g | N1=C(C=CC=C1C=O)C=O | C7H5NO2
reactant | 2,6-dichloroaniline | 16.0 mmol, 2.6 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis-[(2,6-dichlorophenylimino) methyl]pyridine | ClC1=C(C(=CC=C1)Cl)N=CC1=NC(=CC=C1)C=NC1=C(C=CC=C1Cl)Cl | C19H11Cl4N3
